US04010273
3-Nitro-4-phenoxy-5-sulphamylbenzoic acid methyl ester
34 g (~0.1 mol) of 3-nitro-4-phenoxy-5-sulphamylbenzoic acid are dissolved in 150 ml of methanol and are heated to the boil. 5.4 ml of concentrated H2SO4 are then added slowly dropwise and the mixture is heated at reflux temperature for 10 hours. On cooling, 3-nitro-4-phenoxy-5-sulphamylbenzoic acid methyl ester crystallises.

reactant | 3-nitro-4-phenoxy-5-sulphamylbenzoic acid | ~0.1 mol, 34 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H10N2O7S
reactant | H2SO4 | 5.4 ml | OS(=O)(=O)O | H2O4S
reactant | methanol | 150 ml | CO | CH4O
product | 3-Nitro-4-phenoxy-5-sulphamylbenzoic acid methyl ester | COC(C1=CC(=C(C(=C1)S(N)(=O)=O)OC1=CC=CC=C1)[N+](=O)[O-])=O | C14H12N2O7S
